US04035395
Following the description in Example 1, 5.1 g (approx. 0.02 mol) of Cat. 3, 21.2 g (0.2 mol) of distilled benzaldehyde, 350 ml of dimethylformamide and 14 g (0.2 mol) of stabilized methyl vinyl ketone are introduced into a 500 ml three-necked flask. After displacing the air by pure nitrogen, the mixture is brought to a temperature of 80° C and 14.9 g (0.1 mol) of triethanolamine are added. The mixture is then stirred for 15 hours at the same temperature. Working up takes place as in Example 11 except that the mixture is filtered after having been taken up in chloroform. 1-Phenyl-pentane-1,4-dione is obtained.

reactant | benzaldehyde | 0.2 mol, 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | methyl vinyl ketone | 0.2 mol, 14 g | C(=C)C(=O)C | C4H6O
reactant | triethanolamine | 0.1 mol, 14.9 g | N(CCO)(CCO)CCO | C6H15NO3
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 1-Phenyl-pentane-1,4-dione | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
